US06982278B2
2-(4-{2-[2-(4-Carbamoylphenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester
2-(4-{2-[2-(4-Cyanophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester (60 mg, 0.14 mmol) and potassium carbonate (30 mg, excess) were dissolved in dimethylsulfoxide (1 mL). After cooling to 0° C., the mixture was treated with hydrogen peroxide (120 •L of a 30% aqueous solution) and then warmed to ambient temperature. After stirring for 1 h, the mixture was partitioned between EtOAc (15 mL) and H2O. The aqueous phase was extracted with EtOAc (3×), and then the combined organic phases were dried (MgSO4), filtered and concentrated to provide the product as a white solid (58 mg, 93%): mp 112° C.; 1H NMR (400 MHz, CDCl3) δ 8.05 (d, J=8.4 Hz, 2H), 7.87 (d, J=8.4 Hz, 2H), 6.81-6.77 (m, 4H), 6.12 (br s, 1H), 5.66 (br s, 1H), 4.22 (q, J=6.8 Hz, 2H), 4.18 (t, J=6.4 Hz, 2H), 2.95 (t, J=6.4 Hz, 2H), 2.38 (s, 3H), 1.52 (s, 6H), 1.27 (t, J=7.2 Hz, 3H); MS (EI) 475.2 (M+Na)+, 453.2 (M+H)+.

reactant | 2-(4-{2-[2-(4-Cyanophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | 0.14 mmol, 60 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C#N)=O | C25H26N2O5
reactant | potassium carbonate | 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
product | 2-(4-{2-[2-(4-Carbamoylphenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | 58 mg, 93% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C(N)=O)=O | C25H28N2O6
